US06537948B1
A mixture of 1.0 g of 6-chloro-2-(methoxycarbonyl)methoxy-3-nitropyridine, 1.37 g of 2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenol, 0.67 g of potassium carbonate and 5 ml of N,N-dimethylformamide was stirred for 1 hour at room temperature, then at 50° C. for 30 minutes. The resulted residue was added to ice water, extracted with ethyl acetate, and organic layer was washed with saturated saline, dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography to obtain 2.25 g of 6-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-(methoxycarbonyl)methoxy-3-nitropyridine.

reactant | 6-chloro-2-(methoxycarbonyl)methoxy-3-nitropyridine | 1.0 g | ClC1=CC=C(C(=N1)OCC(=O)OC)[N+](=O)[O-] | C8H7ClN2O5
reactant | 2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenol | 1.37 g | ClC1=C(C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)O | C12H7ClF4N2O3
reactant | potassium carbonate | 0.67 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 6-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-(methoxycarbonyl)methoxy-3-nitropyridine | 2.25 g | ClC1=C(OC2=CC=C(C(=N2)OCC(=O)OC)[N+](=O)[O-])C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C20H13ClF4N4O8
